US05834121
To a 250 round bottom flask fitted with a condenser, nitrogen inlet and an overhead stirrer (IKA), was added 6 grams of chloromethyl paramagnetic beads prepared as in Example 2, 100 ml of dimethylformamide and 1.2 grams (6.4 mmole) potassium phthalimide and mixture stirred at 50° C. for 20 hours. At the end of 20 hours, the product was washed with dimethylformamide, methanol, water and ethanol and then dried under vacuum to provide phthalimide incorporated beads.

reactant | potassium phthalimide | 6.4 mmole, 1.2 grams | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | phthalimide | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
